US06268518B1
(a) Synthesis of bis(4,7-dimethylindenyl)methane
Paraformaldehyde (2.08 g, 69.4 mmol) was added to a mixture of 4,7-dimethylindene (25.0 g, 174 mmol) and EtONa (5.9 g, 87 mmol) in DMSO (200 mL) at 25° C. After stirring at room temperature for 12 hours, the reaction mixture was heated at 65° C. for 8 hours. It was then cooled to room temperature and a solution of HCl (1 M, 400 mL) was added. The mixture was extracted with CH2Cl2 (400 mL); the organic phases were combined, washed with a saturated solution of NaCl and then with water, dried with MgSO4, filtered and finally concentrated to yield a brown viscous liquid. GC analysis showed only the final product and the starting material, no fulvene derivative being detectable. Precipitation occurred when the brown liquid was added into pentane (100 mL). Bis(4,7-dimethylindenyl)methane was obtained as a yellow solid after filtering and washing with pentane and EtOH, with a yield of 33% (6.8 g).

reactant | Paraformaldehyde | 69.4 mmol, 2.08 g | C=O | CH2O
reactant | 4,7-dimethylindene | 174 mmol, 25.0 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | EtONa | 87 mmol, 5.9 g | CC[O-].[Na+]
reactant | HCl | 1 M, 400 mL | Cl | ClH
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | bis(4,7-dimethylindenyl)methane | CC1=C2C=CC(C2=C(C=C1)C)CC1C=CC2=C(C=CC(=C12)C)C | C23H24
